US06660744B1
Solid 4-Bromoaniline (1.00 g, 5.81 mmol) and 2,6-dichlorobenzothiazole (1.18 g, 5.81 mmol) were heated at 140° C. for 3 days in a flask equipped with an air condenser (fusion occurred within a few minutes to give a clear liquid which solidified over the course of 3 days). The reaction mixture was allowed to cooled to ambient temperature to give N-(4-bromophenyl)-N-(6-chloro-1,3-benzothiazol-2-yl)amine (1.97 g, 5.81 mmol): RP-HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 10 min at 1 mL/min using a 5μ Hypersil HS C18, 250×4.6 mm column) Rt 14.65 min.

reactant | 4-Bromoaniline | 5.81 mmol, 1.00 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 2,6-dichlorobenzothiazole | 5.81 mmol, 1.18 g | ClC=1SC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NS
product | N-(4-bromophenyl)-N-(6-chloro-1,3-benzothiazol-2-yl)amine | 5.81 mmol, 1.97 g | BrC1=CC=C(C=C1)NC=1SC2=C(N1)C=CC(=C2)Cl | C13H8BrClN2S
